US05877342
Preparation of 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyloxy]benzoic acid
2.46 g (4.3 mmol) of allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyloxy]benzoate, 40 ml of dioxane and 492 mg of palladium-on-charcoal (10%) were introduced into a reactor. The mixture was hydrogenated at 40° C. and at a pressure of 7 bar for three hours. The catalyst was filtered off and the filtrate was evaporated to dryness. The solid obtained was recrystallized from methanol, filtered off and dried. 1.57 g (76%) of the expected acid, having a melting point of 212°-4° C., was recovered.

reactant | allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyloxy]benzoate | 4.3 mmol, 2.46 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)OC3=CC=C(C(=O)OCC=C)C=C3)C=C2)OCOCCOC | C31H36O7
catalyst | palladium-on-charcoal | 492 mg | [Pd] | Pd
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyloxy]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)OC3=CC=C(C(=O)O)C=C3)C=C2)OCOCCOC | C28H32O7
